US08084448B2
B. Nitro-(3-oxo-1H,3H-benzo[de]isochromen-1-yl)-acetic Acid Methyl Ester
To a solution of 8-formylnaphthalene-1-carboxylic acid methyl ester (2.5 g, 11.68 mmol) in EtOH (20 mL) is added 8 drops of piperidine followed by nitroacetic acid methyl ester (2.78 g, 23.4 mmol) and the mixture is stirred at RT for 20 h. Ethyl acetate is added followed by 1N HCl. The resulting precipitate is filtered to give the title compound.

reactant | 8-formylnaphthalene-1-carboxylic acid methyl ester | 11.68 mmol, 2.5 g | COC(=O)C1=CC=CC2=CC=CC(=C12)C=O | C13H10O3
reactant | nitroacetic acid methyl ester | 23.4 mmol, 2.78 g | COC(C[N+](=O)[O-])=O | C3H5NO4
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | HCl | 1N | Cl | ClH
solvent | EtOH | 20 mL | CCO | C2H6O
catalyst | piperidine | 8 drops | N1CCCCC1 | C5H11N
product | Nitro-(3-oxo-1H,3H-benzo[de]isochromen-1-yl)-acetic Acid Methyl Ester | COC(C(C1OC(C2=C3C(C=CC=C13)=CC=C2)=O)[N+](=O)[O-])=O | C15H11NO6
